US04213773
Preparation of 2-[2,4-dichloro-5-(1-hydroxymethyl-ethoxy)-phenyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-A]pyridin-3(2H)-one
4.0 Parts of 2-[2,4-dichloro-5-(1-ethoxy-carbonylethoxy)-phenyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-A] pyridin-3(2H)-one prepared as described in Example 5 in 75 parts of tetrahydrofuran was treated with 0.3 part of sodium borohydride and 0.3 part of lithium chloride. The reaction was heated to 40° for 6 hours. After this period 0.6 part of sodium borohydride and 0.5 parts of lithium chloride were added and the reaction was then stirred for 12 hours at room temperature. The reaction was heated to reflux and an additional 3.0 parts of sodium borohydride and 2.8 parts of lithium chloride were added in small portions over 48 hours. The mixture was cooled and added slowly to 100 parts of water whereby some foaming occurred. The product was extracted three times with 200 parts of ether. The ether was then extracted twice with 100 parts of water. The ether layer was dried with sodium sulfate. The ether was stripped on a rotary evaporator at reduced pressure. The residue was triturated with methylene chloride yielding 0.35 part of a tan solid with m.p. 54°-57°.

reactant | 2-[2,4-dichloro-5-(1-ethoxy-carbonylethoxy)-phenyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-A] pyridin-3(2H)-one | ClC1=C(C=C(C(=C1)Cl)OC(C=C=O)OCC)N1N=C2N(CCCC2)C1=O | C17H17Cl2N3O4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | lithium chloride | [Cl-].[Li+]
solvent | water | O | H2O
product | 2-[2,4-dichloro-5-(1-hydroxymethyl-ethoxy)-phenyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-A]pyridin-3(2H)-one | ClC1=C(C=C(C(=C1)Cl)OC(C)CO)N1N=C2N(CCCC2)C1=O | C15H17Cl2N3O3
